US06077954
2,4,6-Triethoxycarbonyl-1,3,5-triazine
Hydrogen chloride gas was bubbled through neat ethylcyanoformate (0.997 ml, 10.1 mmol) until the solution became a white solid, approximately 2 hours. The solid was partitioned between CH2Cl2 and water. The CH2Cl2 layer was collected dried (MgSO4) and concentrated to a white solid. The product was recrystallized from hot absolute ethanol to give the title compound (m. p. 169-170° C.). 1H NMR (CDCl3) δ 1.42 (t, 9H, 3× CH3), 4.50 (q, 6H, 3× CH2). 13C NMR (DMSO) δ 14.06 (CH3), 64.02 (CH2), 161.27 (CO), 166.86 (Triazine Ar).

reactant | Hydrogen chloride | Cl | ClH
reactant | ethylcyanoformate | 10.1 mmol, 0.997 ml | C(C)OC(=O)C#N | C4H5NO2
product | 2,4,6-Triethoxycarbonyl-1,3,5-triazine | C(C)OC(=O)C1=NC(=NC(=N1)C(=O)OCC)C(=O)OCC | C12H15N3O6
